** sch_path: /foss/designs/SAR_ADC_IHP/xschem/dac_icms_cell/dac_switch.sch
**.subckt dac_switch VDD d VSS v_cap bit v_cm v_in sample sample_n
*.iopin v_in
*.iopin v_cap
*.iopin VDD
*.iopin VSS
*.ipin d
*.iopin v_cm
*.iopin bit
*.ipin sample
*.ipin sample_n
x8 VDD d d_n VSS inverter_lv W_P=0.15u L_P=0.13u W_N=0.15u L_N=0.13u n=n
XM1 v_cap net1 VSS VSS sg13_lv_nmos w=1u l=0.2u ng=1 m=n
XM3 v_cap net2 VDD VDD sg13_lv_pmos w=1.2u l=0.2u ng=1 m=n
x2 VDD d_n VSS v_cap v_cm d transmission_gate_lv_w_dummy W_P=0.15u L_P=0.13u W_N=0.15u L_N=0.13u W_P_D=1.0u L_P_D=0.13u W_N_D=1.0u
+ L_N_D=0.13u n=n
x1 VDD sample VSS v_cap v_in sample_n transmission_gate_lv_w_dummy W_P=0.15u L_P=0.13u W_N=0.15u L_N=0.13u W_P_D=1.0u L_P_D=0.13u
+ W_N_D=1.0u L_N_D=0.13u n=n
x23 bit d VDD VSS net3 sg13g2_and2_1
x46 bit d VDD VSS net4 sg13g2_nand2_1
x4 VDD net3 net2 VSS buffer_lv W_P_INV=3.0u L_P_INV=0.13u W_N_INV=1.0u L_N_INV=0.13u
x5 VDD net4 net1 VSS buffer_lv W_P_INV=3.0u L_P_INV=0.13u W_N_INV=1.0u L_N_INV=0.13u
**.ends

* expanding   symbol:  inverter/inverter_lv.sym # of pins=4
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/inverter/inverter_lv.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/inverter/inverter_lv.sch
.subckt inverter_lv VDD vin vout VSS  W_P=3.0u L_P=0.13u W_N=1.0u L_N=0.13u n=1
*.ipin vin
*.iopin VDD
*.iopin VSS
*.opin vout
XM1 vout vin VDD VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=n
XM2 vout vin VSS VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=n
.ends


* expanding   symbol:  transmission_gate/transmission_gate_lv_w_dummy.sym # of pins=6
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/transmission_gate/transmission_gate_lv_w_dummy.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/transmission_gate/transmission_gate_lv_w_dummy.sch
.subckt transmission_gate_lv_w_dummy VDD di_tg_ctrl VSS v_b v_a di_tg_ctrl_n  W_P=2.0u L_P=0.13u W_N=2.0u L_N=0.13u W_P_D=1.0u
+ L_P_D=0.13u W_N_D=1.0u L_N_D=0.13u n=1
*.iopin v_a
*.iopin v_b
*.iopin VDD
*.iopin VSS
*.ipin di_tg_ctrl
*.ipin di_tg_ctrl_n
XM1 net3 net5 net4 VSS sg13_lv_nmos w=W_N l=L_N ng=1 m=n
XM2 net2 net6 net1 VDD sg13_lv_pmos w=W_P l=L_P ng=1 m=n
XMdummy2 net1 net7 net1 VDD sg13_lv_pmos w=W_P l=L_P ng=1 m={n/2}
XMdummy1 net4 net8 net4 VSS sg13_lv_nmos w=W_N l=L_N ng=1 m={n/2}
Vig1 di_tg_ctrl net5 0
Vig2 di_tg_ctrl_n net6 0
Vig1d di_tg_ctrl_n net8 0
Vig2d di_tg_ctrl net7 0
Vid2 v_a net2 0
Vid1 v_a net3 0
Vis2 v_b net1 0
Vis1 v_b net4 0
.ends


* expanding   symbol:  buffer/buffer_lv.sym # of pins=4
** sym_path: /foss/designs/SAR_ADC_IHP/xschem/buffer/buffer_lv.sym
** sch_path: /foss/designs/SAR_ADC_IHP/xschem/buffer/buffer_lv.sch
.subckt buffer_lv VDD vin vout VSS  W_P_INV=3.0u L_P_INV=0.13u W_N_INV=1.0u L_N_INV=0.13u
*.ipin vin
*.iopin VDD
*.iopin VSS
*.opin vout
x1 VDD vin net1 VSS inverter_lv W_P=W_P_INV L_P=L_P_INV W_N=W_N_INV L_N=L_N_INV n=1
x2 VDD net1 vout VSS inverter_lv W_P=W_P_INV L_P=L_P_INV W_N=W_N_INV L_N=L_N_INV n=1
.ends

.end
